US07081454B2
6-Imidazol-1-yl-2-(4-iodo-2-methoxy-pyridin-3-yl)-4-methyl-1H-benzimidazole:
To a solution of 5-imidazol-1-yl-3-methyl-benzene-1,2-diamine (175 mg, 0.93 mmol) in methanol (8 mL) was added a solution of 4-iodo-2-methoxy-pyridine-3-carbaldehyde (245 mg, 0.93 mmol) in methanol (5 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1.5 h and then at room temperature for 2 h. After concentration, the residue was purified by flash column chromatography (10% MeOH/CH2Cl2) to give the title compound (291 mg, 60%). 1H NMR (300 MHz, CD3OD) δ 8.13 (1H, s), 7.98 (1H, d, J=5.4 Hz), 7.62 (1H, d, J=5.4 Hz), 7.59 (2H, s), 7.33 (1H, s), 7.16 (1H, s), 3.90 (3H, s), 2.67 (3H, s). LCMS (M+H)+ m/z 432 (t=0.99 min.).

reactant | 5-imidazol-1-yl-3-methyl-benzene-1,2-diamine | 0.93 mmol, 175 mg | N1(C=NC=C1)C1=CC(=C(C(=C1)N)N)C | C10H12N4
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 0.93 mmol, 245 mg | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
solvent | methanol | 8 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 6-Imidazol-1-yl-2-(4-iodo-2-methoxy-pyridin-3-yl)-4-methyl-1H-benzimidazole | 291 mg, 60% | N1(C=NC=C1)C=1C=C(C2=C(NC(=N2)C=2C(=NC=CC2I)OC)C1)C | C17H14IN5O
